US08859555B2
To a solution of (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropanamine (520 mg, 2.08 mmol) in DCM (6 mL), 4° A molecular sieves was added followed by chloroacetaldehyde (0.33 mL, 2.5 mmol) and stirred at RT for 1 h. After completion, monitored by TLC, the reaction mixture was cooled at −10° C. and Na(CN)BH3 (157 mg, 2.5 mmol) was added and stirred at RT for 2 h. After completion, the reaction mixture was quenched with NH4Cl (5%) and filtered through a pad of celite. The filtrate was extracted with DCM (2×20 mL), combined extracts were washed with water (20 mL), dried over anhydrous Na2SO4, filtered and evaporated. The residue was purified by flash column chromatography by using EtOAc: Pet ether to get (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)-N-(2-chloroethyl)cyclopropanamine (500 mg, 83.3%) as a liquid.

reactant | (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropanamine | 2.08 mmol, 520 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)N | C23H20F3NO
reactant | chloroacetaldehyde | 2.5 mmol, 0.33 mL | ClCC=O | C2H3ClO
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)-N-(2-chloroethyl)cyclopropanamine | 500 mg, 83.3% | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)NCCCl | C25H23ClF3NO
